US06448236B1
(2S,3S,4R,5R)-5-{2-{[(Benzylsulfonyl)amino]methyl}-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4dihydroxytetrahydro-2-furancarboxamide
A solution of (3aS,4S,6R,6aR)-6-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide (Preparation 10) (120 mg, 0.21 mmol) and triethylamine (0.04 ml, 0.29 mmol) in anhydrous dichloromethane (2 ml) was treated with phenylmethylsulphonyl chloride (45 mg, 0.24 mmol). The mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residue dissolved in ethanol (1 ml). Hydrochloric acid (1M, 1 ml) was added to the solution and the mixture was heated at 60° C. for 8 hours. The solvent was removed under reduced pressure and the residue was azeotroped with ethanol (×2). The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane methanol (95:5 by volume) gradually changing to dichloromethane: methanol (90:10 by volume) to give a solid which was triturated with diethyl ether, diluted with pentane, filtered and dried to afford the title compound as a white solid (92 mg).

reactant | (3aS,4S,6R,6aR)-6-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide | 0.21 mmol, 120 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NCC)NCC(C2=CC=CC=C2)C2=CC=CC=C2 | C30H35N7O4
reactant | triethylamine | 0.29 mmol, 0.04 ml | C(C)N(CC)CC | C6H15N
reactant | phenylmethylsulphonyl chloride | 0.24 mmol, 45 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S,3S,4R,5R)-5-{2-{[(Benzylsulfonyl)amino]methyl}-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4dihydroxytetrahydro-2-furancarboxamide | 92 mg | C(C1=CC=CC=C1)S(=O)(=O)NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H37N7O6S
